US05665718
0.93 g (3 mmol) of 3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one was stirred at room temperature overnight with 0.51 g (3 mmol) of benzyl bromide and 0.52 g (4 mmol) of N-ethyldiisopropylamine in 10 ml of methylene chloride. By evaporation of the solvent and chromatography of the residue on silica gel while eluting with ethyl acetate/methanol 6/1 there was obtained 3-(3-benzylaminomethyl-1,2,4-oxadiazol-5-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one, which was converted into the hydrochloride (0.25 g: 17%) of m.p. 195°-198°.

reactant | 3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 3 mmol, 0.93 g | NCC1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H14N6O2
reactant | benzyl bromide | 3 mmol, 0.51 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | N-ethyldiisopropylamine | 4 mmol, 0.52 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(3-benzylaminomethyl-1,2,4-oxadiazol-5-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | C(C1=CC=CC=C1)NCC1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C22H20N6O2
